US08134001B2
In a manner similar to the method described in example 1d, 5-chloro-2-(2,2,6,6-tetramethyl-tetrahydro-pyran-4-yloxy)-benzaldehyde (0.94 g, 3 mmol) was reacted with 1,1,1,3,3,3-hexamethyldisilazane (0.66 mL, 3 mmol), n-butyllithium (2.5 M, 1.3 mL, 3 mmol), trimethylsilyl chloride (.0.4 mL, 3 mmol), triethylamine (0.57 mL, 4 mmol) and acetyl chloride (0.29 mL, 4 mmol) to give crude 1-[5-chloro-2-(2,2,6,6-tetramethyl-tetrahydro-pyran-4-yloxy)-phenyl]-3-trimethylsilyoxy-2-aza-1,3-butadiene as a yellow gum and used for the next step without further purification.

reactant | 5-chloro-2-(2,2,6,6-tetramethyl-tetrahydro-pyran-4-yloxy)-benzaldehyde | 3 mmol, 0.94 g | ClC=1C=CC(=C(C=O)C1)OC1CC(OC(C1)(C)C)(C)C | C16H21ClO3
reactant | 1,1,1,3,3,3-hexamethyldisilazane | 3 mmol, 0.66 mL | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | n-butyllithium | 3 mmol, 2.5 M, 1.3 mL | C(CCC)[Li]
reactant | trimethylsilyl chloride | 3 mmol, 0.4 mL | C[Si](C)(C)Cl | C3H9ClSi
reactant | triethylamine | 4 mmol, 0.57 mL | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 4 mmol, 0.29 mL | C(C)(=O)Cl | C2H3ClO
product | 1-[5-chloro-2-(2,2,6,6-tetramethyl-tetrahydro-pyran-4-yloxy)-phenyl]-3-trimethylsilyoxy-2-aza-1,3-butadiene | ClC=1C=CC(=C(C1)C=NC(=C)O[Si](C)(C)C)OC1CC(OC(C1)(C)C)(C)C | C21H32ClNO3Si
